US20010018525A1
4-[3-Bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxymethyl]-2-hydoxy-benzoic acid methyl ester
The title compound was prepared as a light yellow oil (0.361 g, 37%) from 4-[ 3—Bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxymethyl]-2-methoxy-benzoic acid methyl ester using a procedure similar to Example 200. 1H NMR (DMSO-d6) δ10.45 (s, 1H); 8.59 (bt, 1H); 8.18 (d, 1H); 7.90-7.58 (m, 6H); 7.25-7.10 (m, 5H); 6.70-6.60 (m, 2H); 4.60 (s, 2H); 3.88 (s, 3H); 3.24 (dd, 2H); 2.52 (t, 2H); 1.50 (m, 4H); 1.25 (m, 8H); IR (KBr) 3400, 2950, 2850, 1685, 1620, 1550, 1440, 1400, 1180, 1120 cm−1; mass spectrum [(−)APCI], m/z 710 (M−H)−; Anal. Calcd. for C37H37BrF3NO5: C, 61.90; H, 5.05; N, 2.01, Found: C, 60.59; H, 5.09; N, 1.86.

reactant | 4-[ 3—Bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxymethyl]-2-methoxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)COC1=C(C=C(C=C1Br)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F)OC)=O | C38H39BrF3NO5
reactant | KBr | [K+].[Br-]
product | 4-[3-Bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxymethyl]-2-hydoxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)COC1=C(C=C(C=C1Br)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F)O)=O | C37H37BrF3NO5
